US07786132B2
(v) 1-(2-(5-Bromo-4-(thieno[2,3-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
2-(5-Bromo-2-chloropyrimidin-4-yl)thieno[2,3-c]pyridine (0.38 g, 1.16 mmol), 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione (0.393 g, 2.3 mmol), diisopropylethyl-amine (0.4 mL, 2.3 mmol) and isopropyl alcohol (2 mL) were all placed in a microwave tube and heated to 170° C. for 20 min. The volatiles were removed in vacuo and the residue dissolved in 9:1 mixture of dichloromethane, preadsorbed onto silica gel and purified by flash chromatography using a gradient of 0 to 10% methanol in dichloromethane to obtain a yellow solid. Yield=0.4 g. MS (M+H)+ 461/463.

reactant | 2-(5-Bromo-2-chloropyrimidin-4-yl)thieno[2,3-c]pyridine | 1.16 mmol, 0.38 g | BrC=1C(=NC(=NC1)Cl)C1=CC=2C(=CN=CC2)S1 | C11H5BrClN3S
reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | 2.3 mmol, 0.393 g | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | diisopropylethyl-amine | 2.3 mmol, 0.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropyl alcohol | 2 mL | C(C)(C)O | C3H8O
product | 1-(2-(5-Bromo-4-(thieno[2,3-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC=2C(=CN=CC2)S1 | C18H17BrN6O2S
